US08557983B2
methyl 2-(6-aminopyridin-3-yloxy)-4-fluorobenzoate
A mixture of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (1.039 g), CsF (1.956 g), bis(triphenylphosphine)palladium(II) dichloride (0.301 g), and methyl 2-bromo-4-fluorobenzoate (1.0 g) in 50 mL dimethoxyethane-methanol (1:1) was heated at 80° C. for 2.5 hours. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was washed with brine, dried over MgSO4, filtered, ad concentrated. The residue was chromatographed on silica gel with 25-80% ethyl acetate in hexanes.

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.039 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | CsF | 1.956 g | [F-].[Cs+]
reactant | methyl 2-bromo-4-fluorobenzoate | 1.0 g | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
reactant | dimethoxyethane methanol | 50 mL | C(OC)COC.CO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.301 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 2-(6-aminopyridin-3-yloxy)-4-fluorobenzoate | NC1=CC=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)F | C13H11FN2O3
